US05006157
Preparation of 1-(3,5-dichloro-4-hydroxy-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one (Compound No. 453)
A DMF suspension of 2.2 g (0.05 mol) of sodium hydride (about 60% in oil) was cooled with ice water, and 5.1 g (0.05 mol) of ethyl mercaptan was dropwise added thereto at a temperature not higher than 10° C. under stirring. The reaction mixture was returned to room temperature and left to stand for about 30 minutes. Then, a DMF solution of 15.7 g (0.04 mol) of 1-(3,5- dichloro-4-methoxy-α,α-dimethylbenzyl)-4-methyl-3-phenyl- 3-pyrrolin-2-one (Compound No. 143) prepared in Example 2, was added thereto. The solution was heated at about 80° C. and reacted for three hours. After completion of the reaction, the reaction solution was poured into a large amount of ice water, acidified with a 10% hydrochloric acid aqueous solution and then extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The solid thereby obtained was washed with isopropyl ether to obtain 11.0 g (yield: 73.3%) of the desired compound as colorless crystals.

reactant | sodium hydride | 0.05 mol, 2.2 g | [H-].[Na+]
reactant | ethyl mercaptan | 0.05 mol, 5.1 g | C(C)S | C2H6S
reactant | 1-(3,5- dichloro-4-methoxy-α,α-dimethylbenzyl)-4-methyl-3-phenyl- 3-pyrrolin-2-one | 0.04 mol, 15.7 g | ClC=1C=C(C(C)(C)N2C(C(=C(C2)C)C2=CC=CC=C2)=O)C=C(C1OC)Cl | C21H21Cl2NO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(3,5-dichloro-4-hydroxy-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one | 11.0 g, yield: 73.3% | ClC=1C=C(C(C)(C)N2C(C(=C(C2)C)C2=CC=CC=C2)=O)C=C(C1O)Cl | C20H19Cl2NO2
